US07501420B2
Precursor 51, 1-picolinoyl-4-[(4-methoxy-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine was prepared by the same method as Precursor 5a starting from Potassium (4-methoxy-7-chloro-6-azaindol-3-yl)oxoacetate, Precursor 4d, and picolinoyl-piperazine. 1H NMR (500 MHz, DMSO-d6) δ 8.63-7.45 (m, 7H), 3.94 (s, 3H), 3.82-2.50 (m, 8H). MS m/z: (M+H)+ Calc'd for C20H19ClN5O4: 428.11; Found 428.11. HPLC retention time: 1.09 minutes (column A).

reactant | Potassium (4-methoxy-7-chloro-6-azaindol-3-yl)oxoacetate | COC1=C2C(=CNC2=C(N=C1)Cl)C(C(=O)[O-])=O.[K+]
reactant | picolinoyl-piperazine | N1=C(C=CC=C1)C(=O)N1CCNCC1 | C10H13N3O
product | 1-picolinoyl-4-[(4-methoxy-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine | N1=C(C=CC=C1)C(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)Cl)=O | C20H18ClN5O4
